US07452880B2
To a mixture of 165 mL of nitric acid and 209 mL of sulfuric acid was slowly added 56.4 g of 2-chloro-5-methylpyridine-1-oxide. The reaction mixture was stirred at 100° C. for two hours, cooled to room temperature, and added to ice. Sodium carbonate was added to adjust the pH to about pH 2 to pH 3. The resulting yellow solid was separated by filtration and washed with ice-water. The combined filtrates were extracted with hot chloroform. The extracts were combined, dried over sodium sulfate, and concentrated to give 59.1 g of 2-chloro-5-methyl-4-nitropyridine-1-oxide (80%). Mass Spec. M+H=189.

reactant | nitric acid | 165 mL | [N+](=O)(O)[O-] | HNO3
reactant | 2-chloro-5-methylpyridine-1-oxide | 56.4 g | ClC1=[N+](C=C(C=C1)C)[O-] | C6H6ClNO
reactant | Sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | sulfuric acid | 209 mL | S(O)(O)(=O)=O | H2O4S
product | 2-chloro-5-methyl-4-nitropyridine-1-oxide | 59.1 g, 80% | ClC1=[N+](C=C(C(=C1)[N+](=O)[O-])C)[O-] | C6H5ClN2O3
